US07525717B2
2-Methyl-N-(6-methylpyridin-2-yl)-N-pyridin-2-ylquinolin-8-amine
To a flask were added 2.5 g of 2-methyl-N-(6-methylpyridin-2-yl)quinolin-8-amine, 4.7 g of 2-bromopyridine, 1.6 g of sodium carbonate, 51 mg of copper bronze, 5 mg of potassium bromide, and 3 ml of mesytylene. After stirring under nitrogen at 160 C for 16 hours, the mixture was cooled to 22 C, and 35 ml of water was added and the product was extracted with 50 ml ethyl acetate. After washing twice with 20 ml of water, the solvent was removed, and the product was purified by silica gel chromatography using 50% ethyl acetate, 50% hexane, and 0.1% triethylamine resulting in 3.0 g of a light yellow oil.

reactant | 2-methyl-N-(6-methylpyridin-2-yl)quinolin-8-amine | 2.5 g | CC1=NC2=C(C=CC=C2C=C1)NC1=NC(=CC=C1)C | C16H15N3
reactant | 2-bromopyridine | 4.7 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | sodium carbonate | 1.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium bromide | 5 mg | [Br-].[K+]
catalyst | copper bronze | 51 mg | [Cu] | Cu
solvent | water | 35 ml | O | H2O
product | 2-Methyl-N-(6-methylpyridin-2-yl)-N-pyridin-2-ylquinolin-8-amine | CC1=NC2=C(C=CC=C2C=C1)N(C1=NC=CC=C1)C1=NC(=CC=C1)C | C21H18N4
